Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pancreatitis, cholecystitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
PCP: ___. ___ (___)
RX: STop & Shop ___

___ with HTN and recent Afib on xarelto, with epigastric, 
constant, sharp, epigastric abdominal pain radiating to bilat 
flank yesterday at 4pm.  No fever, chills, or vomiting though 
there was mild nausea.  She went to ___ and was afebrile with BP 
140-160/70s, HR 70-80s, RR ___, on RA 95%.given PO Levoflox, 
25mcg fentanyl and Zofran IV. A lipase was >3000, WBC 14, Hgb 
12, HCT 38, BUN 19, Cr 1.0, K 3.7, bicarb 28, gluc 123.  She had 
a CT abd which by report showed CBD 14mm, cholecystitis, 
pancreatitis, possible periportal LN 1.2cm, and prominent 
endometrial stripe. She was sent here for further evaluation and 
management.  In the interim her abdominal pain has ceased and 
she is feeling well.

ROS: no chest, neck, jaw, arm pain. no SOB, no palpitations.  
other 10pt detail ROS negative.  She recently completed  a 
course of Doxycycline 100mg BID per her pharmacy.

Patient did not have list of her home meds, remembered 
(metoprolol, digoxin, xarelto, HCTZ, and valsartan).  Per 
pharmacy was prescribed Losartan by cardiologist and Valsartan 
by PCP within last week.

 
Past Medical History:
- HTN
- Afib (just ___ weeks ago, on xarelto)
- s/p carpal tunnel release
- s/p "back surgery"
- s/p right lumpectomy (benign)
 
Social History:
___
Family History:
No h/o GI cancers
 
Physical Exam:
ADMISSION
98.2, 130/80, 87, 16, 94%RA
GEN - looks well-nourished in NAD
HEENT - anicteric, OP clear, neck supple, no ___
LUNGS - CTA bilat
COR - Irreg, irreg no MRG
ABD - soft, NT/ND no masses, no R/G
EXT - no C/C/E
SKIN - no rash
NEURO - fluent speech, nl cognition, sits/stands unassisted, no 
sensorimotor deficits

DISCHARGE
AVSS, looks well
JVP flat
LUGNS CTA
COR irreg irreg no MRG
No edema
nonfocal neuro
 
Pertinent Results:
___ 01:35AM   WBC-11.4* RBC-3.88* HGB-12.6 HCT-39.9 
MCV-103* MCH-32.5* MCHC-31.6* RDW-12.8 RDWSD-47.5*
___ 01:35AM   PLT COUNT-263
___ 01:35AM   NEUTS-75.7* LYMPHS-15.6* MONOS-6.8 EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-8.65* AbsLymp-1.78 AbsMono-0.78 
AbsEos-0.06 AbsBaso-0.05
___ 01:35AM   ___ PTT-35.7 ___
___ 02:06AM   LACTATE-1.4
___ 01:35AM   GLUCOSE-116* UREA N-18 CREAT-1.0 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-26 ANION GAP-15
___ 01:35AM   ALT(SGPT)-41* AST(SGOT)-45* ALK PHOS-72 TOT 
BILI-0.7
___ 01:35AM   LIPASE-525*
___ 01:35AM   ALBUMIN-4.0

RUQ US:   
1. Cholelithiasis within a thin-walled gallbladder, with no 
pericholecystic fluid. 
2. Common bile duct dilation up to 14 mm. No choledocholithiasis 
within the proximal CBD. The distal CBD is not visualized. 
3. Likely trace right pleural effusion. 

MRCP ___. Extremely limited examination due to early termination from 
patient 
claustrophobia. 
2. Cholelithiasis with a dilated common bile duct measuring up 
to 13 mm, but no evidence of choledocholithiasis. 
3. Pericholecystic fluid, in addition to gallbladder wall edema, 
perinephric stranding and a small amount of fluid within the 
left pelvis, which could be related to third spacing in the 
setting of pancreatitis, however a HIDA scan is recommended to 
rule out acute cholecystitis. 
4. Normal appearance of the intrahepatic and pancreatic ducts. 
5. Small right pleural effusion. 
6. Diverticulosis. 

HIDA NUCLEAR GALLBLADDER SCAN ___
Normal hepatobiliary scan.

___ 06:50AM BLOOD WBC-8.7 RBC-3.44* Hgb-11.6 Hct-36.3 
MCV-106* MCH-33.7* MCHC-32.0 RDW-12.8 RDWSD-49.7* Plt ___
___ 06:50AM BLOOD Plt ___

___ 06:50AM BLOOD ___ PTT-30.1 ___

___ 06:50AM BLOOD Glucose-77 UreaN-12 Creat-0.9 Na-139 
K-4.5 Cl-103 HCO3-27 AnGap-14
___ 06:50AM BLOOD ALT-23 AST-23 AlkPhos-55 TotBili-0.6
___ 06:50AM BLOOD Lipase-95*
___ 05:45AM BLOOD cTropnT-<0.01 

___ AP
1. COPD and cardiomegaly.
2. Mild vascular plethora consistent with mild CHF.
3. Patchy opacity left base consistent with atelectasis, the 
differential
diagnosis includes infectious infiltrate or changes due to 
aspiration.

___
CXR PA/LAT1. Interval improvement in pulmonary vascular 
congestion and mild pulmonary
edema.
2. Small residual pleural fluid and/or thickening and left 
infrahilar
atelectasis again noted.
3. Hyperexpansion suggesting COPD.
4. No focal consolidation

proBNP-___* (resulted after discharge)
 
Brief Hospital Course:
___ with HTN, AFib admitted with acute pancreatitis, 
cholelithiasis and mildly enlarged CBD. 

# Acute gallstone pancreatitis - spontaneous resolution
# Bile duct enlargement
# Cholelithiasis
# Afib (CHAD2DS2-VASc = 4)
# HTN
# CKD3
# COPD vs mild CHF
# Incidental thickened endometrial stripe

Xarelto was held and she was made NPO with IVF hydration. 
Medications were reconciled with her outpatient pharmacy.  (She 
was being prescribed TWO ARBs by 2 different providers). MRCP 
was obtained and did not show retained stone, and HIDA scan did 
not show cholecystitis.  Clinically she had already improved by 
time of arrival to ___, lipase decreased 3000 --> 500s --> 95, 
and mild transaminitis normalized, suggesting passage of 
intermittently obstructing CBD stone.  She remained without 
fever or abdominal pain.  She was seen by surgery consult and 
not felt to need gallbladder removal.  Case was discussed with 
ERCP team and, in light of her mild case and rapid spontaneous 
symptom resolution, it was felt risks of complications from 
performing ERCP w/ sphincterotomy outweighed benefits. The diet 
was advanced and tolerated.  Her BP medications were restarted.  


Her Xarelto was changed to 15mg once daily in the evening given 
age and GFR <___.  

On evening prior to discharge, she complained of mild DOE 
responsive to albuterol nebs, which she said she recently 
started at home.  AP CXR showed ? retrocardiac opacification 
with mild pulmonary edema (though was not read by early next AM 
when seen by me).  At that time the next AM she said she felt 
well, without chest, arm, neck pain.  Lungs were clear, JVP was 
flat.  Review of outside hospital CT scan showed changes 
consistent with COPD (hyperinflated lungs).  She indicated she 
had been on Advair in the past, and that she had been told in 
the past she might have COPD. Formal PA/LAT CXR was ordered and 
showed no infiltrate or pulmonary edema.  Troponin was flat.  A 
BNP was ordered but not back prior to discharge, however, she 
had no CHF clinically.  The dyspnea resolved with albuterol neb 
(she had no wheezing) and her ambulatory O2 SpO2 was fine on 
room air.  She was prescribed Advair 100/50 BID and albuterol 
inhaler prn and discharged to home.  She said that she had 
recently been given albuterol nebulizer for SOB after aqua 
aerobics in the last few weeks.

Medications were reviewed as were discharge instructions and all 
questions were answered to her apparent satisfaction.  She was 
instructed to call her PCP on ___ to make a follow up 
appointment

******TRANSITIONAL ISSUES*******
1)  It was noted on ___ CT Abd report mention of 
thickened endometrial stripe warranting non-urgent followup 
outpatient pelvic ultrasound. Patient informed by me and 
recommended to have PCP arrange this.  

2) ProBNP resulted after discharge elevated to >4000.  Baseline 
unknown, but she does not carry a diagnosis of heart failure. 
The elevated level, in light of her subacute DOE, could suggest 
a component of mild heart failure.  Would recommend repeat 
clinical evaluation, outpatient echocardiogram to determine if 
systolic / diastolic, consider trial of low dose lasix daily 
(10mg), and consider outpatient exercise-MIBI (baseline ECG here 
with LBBB).  Patient is already on betablocker and ___.   DC 
summary will be sent/faxed to PCP office, and patient will be 
contacted about these recommendations ___.

HCP ___ ___
DNR/DNI confirmed with patient

I called patient ___ to alert patient to above, reached her son 
who shared with me was at ___ ER with SOB.  I spoke with ___ ER 
physician caring for patient and indicated I would send copy of 
DC summary to him.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 10 mg PO BID 
2. Digoxin 0.125 mg PO DAILY (and 1 extra tab 2 x /wk as 
directed)
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Valsartan 160 mg PO DAILY 
5. Metoprolol Tartrate 50 mg PO BID 
6. Losartan Potassium 25 mg PO DAILY  (not taking)

 
Discharge Medications:
1. Digoxin 0.125 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Losartan Potassium 25 mg PO BID 
4. Senna 8.6 mg PO BID:PRN Constipation 
5. Polyethylene Glycol 17 g PO DAILY constipation 
6. Metoprolol Tartrate 50 mg PO BID 
7. Rivaroxaban 15 mg PO DINNER 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 PUFF INH Q6H:PRN 
Disp #*2 Inhaler Refills:*0
9. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 100 mcg-50 mcg/dose 1 
PUFF INH twice a day Disp #*1 Disk Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstone pancreatitis
COPD
Afib
HTN
Incidental thickened endometrial stripe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane) when out of house (= baseline).

 
Discharge Instructions:
You were admitted for gallstone pancreatitis. This resolved 
spontaneously and you most likely passed the stone 
spontaneously. Your abdominal pain resolved.  Imaging with MRCP 
did not demonstrate any retained stone, and a nuclear 
gallbladder scan did not reveal inflammation of the gallbladder. 
 You tolerated a diet prior to discharge.  You were seen by 
surgical consult team with no further surgical needs.  Your case 
was reviewed with Dr. ___ the endoscopic GI team, and 
given that your first case of gallstone pancreatitis was so 
mild, no endoscopic procedure was recommended. Should you have 
recurrent symtpoms from a gallstone, you would probably then 
benefit from ERCP with sphinterotomy and/or gall bladder 
removal.  You had some SOB in the hospital.  A CXR was fine, and 
your CT scan from OSH was reviewed with our radiologist and 
showed probable COPD.  There was no evidence of heart attack or 
heart failure
1) I have recommended you move to Once daily dosing of 
Rivoroxaban at a lower dose (15mg) instead of what you were 
taking (10mg twice a day). This would mean you should take 1 and 
___ tablets daily only. Please discuss this change with your 
prescribing doctor
2) I have recommended you start Advair, which you have taken 
before
3) The CT scan at ___ showed a thickened uterine 
wall for which an outpatient pelvic ultrasound was recommended. 
Please ask your PCP to arrange this for you
 
Followup Instructions:
___